US06977267B2
4-(1H-Tetrazol-5-yl)-thiophene-2-carboxaldehyde
Sodium azide (2.9 g, 44.6 mmol) and TEA hydrochloride (4.13 g, 30 mmol) were added to a solution of 5-formyl-thiophene-3-carbonitrile (2 g, 15 mmol, prepared according to Intern. application WO 02/26718) in DMF (50 ml). The solution was refluxed for 12 h. After cooling to RT, water was added and the solution was carefully acidified with HCl. The solution was extracted 3 times with EtOAc. The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure to yield the desired product as a brown solid (540 mg) which was used without further purification.

reactant | Sodium azide | 44.6 mmol, 2.9 g | [N-]=[N+]=[N-].[Na+]
reactant | 5-formyl-thiophene-3-carbonitrile | 15 mmol, 2 g | C(=O)C1=CC(=CS1)C#N | C6H3NOS
reactant | water | O | H2O
reactant | HCl | Cl | ClH
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 4-(1H-Tetrazol-5-yl)-thiophene-2-carboxaldehyde | 540 mg | N1N=NN=C1C=1C=C(SC1)C=O | C6H4N4OS
